US06265422B1
3-(3-Methoxy-4-methylphenyl)-1-propanol
A suspension of 3.3 g (98.1 mmol) of lithium aluminum hydride in 40 mL THF was treated dropwise with a solution of 8.65 g (44.5 mmol) of 3-(3-methoxy-4-methylphenyl)propanoic acid in 125 mL of THF. After stirring at room temperature for 0.5 hour, the mixture was heated at reflux for 2 hours. The mixture was cautiously acidified with 1N H2SO4, then extracted with EtOAc. The EtOAc was washed with 1N H2SO4, H2O, saturated NaHCO3, and saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure left 7.33 g (91.6% yield) of the product as a clear oil. The structure was confirmed by NMR and mass spectroscopy. MS m/z 181 (M+H+).

reactant | lithium aluminum hydride | 98.1 mmol, 3.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(3-methoxy-4-methylphenyl)propanoic acid | 44.5 mmol, 8.65 g | COC=1C=C(C=CC1C)CCC(=O)O | C11H14O3
reactant | H2SO4 | 1N | OS(=O)(=O)O | H2O4S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 3-(3-Methoxy-4-methylphenyl)-1-propanol | 7.33 g, 91.6% yield | COC=1C=C(C=CC1C)CCCO | C11H16O2
